US08492582B2
Thioanisole (3.2 mL) and trifluoroacetic acid (10 mL) were added to the obtained methyl 2-(2-(benzyloxy)-5-(2-(thiomorpholin-4-yl)ethoxy)benzamido)-4-phenylbenzoate (0.80 g), followed by stirring at room temperature for 18 hours. The solvent was evaporated under reduced pressure, and a saturated aqueous solution of sodium bicarbonate and chloroform were added to the residue. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [Kanto Chemical Co., Inc., silica gel 60 (spherical), eluent: 70-0% hexane/ethyl acetate to 100-95% chloroform/methanol] to obtain 0.54 g of methyl 2-(2-hydroxy-5-(2-(thiomorpholin-4-yl)ethoxy)benzamido)-4-phenylbenzoate as a brown solid.

reactant | Thioanisole | 3.2 mL | C1(=CC=CC=C1)SC | C7H8S
reactant | methyl 2-(2-(benzyloxy)-5-(2-(thiomorpholin-4-yl)ethoxy)benzamido)-4-phenylbenzoate | 0.80 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)OCCN1CCSCC1 | C34H34N2O5S
solvent | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
product | methyl 2-(2-hydroxy-5-(2-(thiomorpholin-4-yl)ethoxy)benzamido)-4-phenylbenzoate | 0.54 g | OC1=C(C(=O)NC2=C(C(=O)OC)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)OCCN1CCSCC1 | C27H28N2O5S
